US07781462B2
To a scintillation vial was added 4-ethynyl anisole (660 mg.; 5 mmol) and 3,4,5-trimethoxyphenyl azide (1.05 g.; 5 mmol) and the mixture was heated at 80° C. for 24 hours. The crude mixture was purified by column chromatography to give 1-(3,4,5-trimethoxy-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,3]triazole.

reactant | 4-ethynyl anisole | 5 mmol, 660 mg | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 3,4,5-trimethoxyphenyl azide | 5 mmol, 1.05 g | COC=1C=C(C=C(C1OC)OC)N=[N+]=[N-] | C9H11N3O3
product | 1-(3,4,5-trimethoxy-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,3]triazole | COC=1C=C(C=C(C1OC)OC)N1N=NC=C1C1=CC=C(C=C1)OC | C18H19N3O4
